US07652041B2
Step 3. Preparation of (E)-3-(3-(2-(4,5-dihydro-1H-imidazol-2-yl)pyridin-4-yloxy)phenyl)-N-(3-isopropylphenyl)acrylamide (B-2)
To a solution of (E)-3-(3-hydroxyphenyl)-N-(3-isopropylphenyl)acrylamide (3.20 mmol) in DMF (40 mL) was added 4-chloro-2-(4,5-dihydro-1H-imidazol-2-yl)pyridine (11.2 mmol) and cesium carbonate (16.0 mmol). The heterogeneous mixture was heated at 100° C. for 18 h and then cooled to rt. The mixture was diluted with water and extracted with EtOAc. The combined organic solutions were washed with water and brine, dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography (90:10:1 DCM:MeOH:NH4OH) to give B-2. 1H NMR (300 MHz, d6-DMSO): δ 10.13 (s, 1H), 8.52 (d, J=5.6 Hz, 1H), 7.56-7.61 (m, 3H), 7.50-7.54 (m, 2H), 7.44-7.47 (m, 1H), 7.41 (d, J=2.8 Hz, 1H), 7.20-7.29 (m, 2H), 7.17 (dd, J=6.8, 2.8 Hz, 1H), 6.93-6.99 (m, 2H), 6.85 (d, J=15.6 Hz, 1H), 3.32 (s, 4H), 2.85 (sept, J=6.8 Hz, 1H), and 1.18 (d, J=7.2 Hz, 6H).

reactant | (E)-3-(3-hydroxyphenyl)-N-(3-isopropylphenyl)acrylamide | 3.20 mmol | OC=1C=C(C=CC1)/C=C/C(=O)NC1=CC(=CC=C1)C(C)C | C18H19NO2
reactant | 4-chloro-2-(4,5-dihydro-1H-imidazol-2-yl)pyridine | 11.2 mmol | ClC1=CC(=NC=C1)C=1NCCN1 | C8H8ClN3
reactant | cesium carbonate | 16.0 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-3-(3-(2-(4,5-dihydro-1H-imidazol-2-yl)pyridin-4-yloxy)phenyl)-N-(3-isopropylphenyl)acrylamide | N1C(=NCC1)C1=NC=CC(=C1)OC=1C=C(C=CC1)/C=C/C(=O)NC1=CC(=CC=C1)C(C)C | C26H26N4O2
